US04471046
A solution of 1-p-tolyl-3-(t-butyldimethylsiloxy)-pyrazoline (218 g, 0.75 mole) in 750 ml anhydrous tetrahydrofuran was added dropwise over a 30 minute period to a solution of n-butyllithium (51.5 g, 0.80 mole) in 350 ml n-hexane and 3.0 l anhydrous tetrahydrofuran stirred under nitrogen and cooled to -78° C. in a dry ice-acetone bath. The mixture was stirred for another 30 minutes then treated with one portion of acetone (58. g, 1.0 mole), and stirred at -78° C. for an additional 30 minutes. After removal of the dry ice-acetone bath, one portion of 250 ml 5% aqueous hydrochloric acid was added and the mixture was stirred an additional 25 minutes. The mixture was extracted with 1.0 l of ether and then with a (1:1) mixture of ether and ethyl acetate. The combined extracts were dried over magnesium sulfate. After removal of solvent, the residue was digested in a hot (3:2) mixture of ether and n-hexane. Upon cooling to 0° C. and filtering, 111 g of 4-(1-hydroxy-1-methylethyl)-1-p-tolyl-3-pyrazolidinone was obtained. Analysis was confirmed by infrared and NMR spectra.

reactant | 1-p-tolyl-3-(t-butyldimethylsiloxy)-pyrazoline | 0.75 mole, 218 g | C1(=CC=C(C=C1)N1NC(=CC1)O[Si](C)(C)C(C)(C)C)C | C16H26N2OSi
reactant | n-butyllithium | 0.80 mole, 51.5 g | C(CCC)[Li]
reactant | acetone | 1.0 mole | CC(=O)C | C3H6O
solvent | tetrahydrofuran | 750 ml | O1CCCC1 | C4H8O
solvent | n-hexane | 350 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 3.0 l | O1CCCC1 | C4H8O
product | 4-(1-hydroxy-1-methylethyl)-1-p-tolyl-3-pyrazolidinone | 111 g | OC(C)(C)C1C(NN(C1)C1=CC=C(C=C1)C)=O | C13H18N2O2
